US07157487B2
Under stirring at room temperature, ethyl 4-amino-3-fluoro-5-hydroxyphenylacetate (233 mg, 1.10 mmol) was added to a solution of 5-fluoro-2-methylphenyl isothiocyanate (184 mg, 1.10 mmol) in methanol (20 ml). The resulting mixture was stirred at 70° C. for 1 hour. To the reaction mixture was added mercuric oxide (yellow) (262 mg, 1.21 mmol), followed by stirring for further 30 minutes. After cooling to room temperature, the reaction mixture was filtered through Celite. The filtrate was washed with methanol and then, distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from chloroform/methanol (10/1) eluate fractions, ethyl (2-(5-fluoro-2-methylphenylamino)-4-fluoro-6-benzoxazolyl)acetate (216 mg, 57%) was obtained as a pale yellow solid.

reactant | ethyl 4-amino-3-fluoro-5-hydroxyphenylacetate | 1.10 mmol, 233 mg | NC1=C(C=C(C=C1O)CC(=O)OCC)F | C10H12FNO3
reactant | 5-fluoro-2-methylphenyl isothiocyanate | 1.10 mmol, 184 mg | FC=1C=CC(=C(C1)N=C=S)C | C8H6FNS
solvent | methanol | 20 ml | CO | CH4O
product | ethyl (2-(5-fluoro-2-methylphenylamino)-4-fluoro-6-benzoxazolyl)acetate | 216 mg, 57% | FC=1C=CC(=C(C1)NC=1OC2=C(N1)C(=CC(=C2)CC(=O)OCC)F)C | C18H16F2N2O3
